US20010001799A1
A solution, cooled to 0° C., of 6.81 g of 3,4-dimethylbenzyl alcohol and 11.62 ml of N,N,N′,N′-tetramethyl-ethylenediamine in 150 ml of pentane was treated with 62.5 ml of n-butyllithium solution (1.6M in hexane). The reaction mixture was boiled at reflux for 11 hrs. Then, 12.69 g of iodine in 50 ml of THF were added dropwise at −30° C. The mixture was stirred for 15 min. at −30° C. and then left to warm to room temperature. The reaction mixture was added to 100 ml of 10% sulphuric acid. The crude product was isolated by extraction and purified by chromatography on silica gel. There were obtained 2.95 g of (2-iodo-4,5-dimethyl-phenyl)-methanol as a light yellow solid.

reactant | 3,4-dimethylbenzyl alcohol | 6.81 g | CC=1C=C(CO)C=CC1C | C9H12O
reactant | N,N,N′,N′-tetramethyl-ethylenediamine | 11.62 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 62.5 ml | C(CCC)[Li]
reactant | iodine | 12.69 g | II | I2
reactant | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | pentane | 150 ml | CCCCC | C5H12
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (2-iodo-4,5-dimethyl-phenyl)-methanol | 2.95 g | IC1=C(C=C(C(=C1)C)C)CO | C9H11IO
